US07981879B2
Step 4: Methyl 10-[benzyl(methyl)amino]-3-hydroxy-4-oxo-6,7,9,10-tetrahydro-4H-pyrimido[1,2-d][1,4]oxazepine-2-carboxylate
Methyl 3-hydroxy-4-oxo-6,7,9,10-tetrahydro-4H-pyrimido[1,2-d][1,4]oxazepine-2-carboxylate was taken in chloroform and treated with pyridine (3 equivalents) and benzoic anhydride (1.2 eq.). The mixture was stirred overnight at room temperature, then poured in chloroform and washed with 1 N HCl and brine. The organic phase was dried (Na2SO4), filtered and concentrated under reduced pressure to a solid residue. MS (ES) C17H16N2O6 requires 344. Found: 345 (M+H+). This residue was taken in N,N-dimethylformamide and treated with 0.5 equivalents of benzoyl peroxide and 5 equivalents of N-bromosuccinimide. The mixture was stirred at 100° C. for 1 hour. To allow the reaction to progress further, another aliquot of both reagents was added and stirring continued an additional hour. After cooling to room temperature, mixture was poured in EtOAc, washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure to an oily residue. This residue was treated with an excess of methylbenzylamine in THF at room temperature for 1 hour. The mixture was applied on cation exchange resin and the resin was extensively washed with methanol, while title compound was eluted with a 1N solution of ammonia in methanol. The pooled fractions were evaporated to dryness. MS (ES) C18H21N3O5 requires 359. Found: 360 (M+H+).

reactant | Methyl 3-hydroxy-4-oxo-6,7,9,10-tetrahydro-4H-pyrimido[1,2-d][1,4]oxazepine-2-carboxylate | OC1=C(N=C2N(CCOCC2)C1=O)C(=O)OC | C10H12N2O5
reactant | pyridine | 3 equivalents | N1=CC=CC=C1 | C5H5N
reactant | benzoic anhydride | 1.2 eq. | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | benzoyl peroxide | 0.5 equivalents | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 5 equivalents | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 10-[benzyl(methyl)amino]-3-hydroxy-4-oxo-6,7,9,10-tetrahydro-4H-pyrimido[1,2-d][1,4]oxazepine-2-carboxylate | C(C1=CC=CC=C1)N(C1C=2N(CCOC1)C(C(=C(N2)C(=O)OC)O)=O)C | C18H21N3O5
